data/oMe_Silver.jsonl
{"reaction_id": "NR-106_1-c1ccccc1_2-c1ccc(C#N)cc1_3-c1ccc([N+](=O)[O-])cc1_4-C(C)C","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(c1ccccc1)(c1ccc(C#N)cc1)[N+](=O)[O-]","C(c1ccc([N+](=O)[O-])cc1)(C(C)C)=O","[OH-]"],"products_smiles": ["C(c1ccc([N+](=O)[O-])cc1)(C(C)C)(O)C(c1ccccc1)(c1ccc(C#N)cc1)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(c1ccc(C#N)cc1)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)(C(C)C)([O-])C(c1ccccc1)(c1ccc(C#N)cc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc([N+](=O)[O-])cc1)(C(C)C)(O)C(c1ccccc1)(c1ccc(C#N)cc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
{"reaction_id": "NR-110_1-C(C)C_2-C#N_3-CC=C_4-C(C)(C)C","name": "Horner-Wadsworth-Emmons Reaction","level": "medium","reactants_smiles": ["P(=O)(OC(C)C)(OC(C)C)C(C#N)CC=C","O=CC(C)(C)C"],"products_smiles": ["C(C(C)(C)C)=C(C#N)CC=C"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "P(=O)(OC(C)C)(OC(C)C)[C-](C#N)CC=C","rationale": "The base abstracts the acidic α-proton next to the phosphonate due to strong electron-withdrawing effects of the P=O group, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "P(=O)(OC(C)C)(OC(C)C)C(C#N)(CC=C)C([O-])C(C)(C)C","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)COP1([O-])(OC(C)C)C(C#N)(CC=C)C(C(C)(C)C)O1","rationale": "Intramolecular attack of the alkoxide on phosphorus forms a four-membered oxaphosphetane, favored by proximity and the strong P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)=C(C#N)CC=C","rationale": "The oxaphosphetane collapses, eliminating the phosphate group as a stable leaving group, driven by formation of the thermodynamically stable C=C bond."}],"description": "Under basic conditions, the Horner–Wadsworth–Emmons reaction proceeds via deprotonation of the phosphonate to form a stabilized carbanion, nucleophilic attack on the aldehyde, cyclization to an oxaphosphetane intermediate, and elimination to yield the alkene product with high selectivity."}
